US05827865
Methyl (Z)-3-[4-[2-[N-(2-benzoxazolyl)-N-methylamino]ethoxy]phenyl]-2-(carboxymethoxy)propenoate
A mixture of sodium hydride (60% dispersion in mineral oil. 0.30 g), dimethyl diglycolate (0.81 g) and 4-[2-[N-(2-benzoxazolyl)-N-methylamino]ethoxy]benzaldehyde (2.22 g) in dry benzene (50 mL)was stirred at room temperature overnight. Acetic acid (1 mL) was added, the mixture was poured onto iced water and extracted with ethyl acetate. The combined ethyl acetate layers were washed with water, dried (MgSO4) and evaporated. The resulting oil was chromatographed on silica gel using 2% methanol in dichloromethane, and the product crystallised from ethyl acetate, mp 111°-112° C.

reactant | sodium hydride | 0.30 g | [H-].[Na+]
reactant | dimethyl diglycolate | 0.81 g | C(COCC(=O)OC)(=O)OC | C6H10O5
reactant | 4-[2-[N-(2-benzoxazolyl)-N-methylamino]ethoxy]benzaldehyde | 2.22 g | O1C(=NC2=C1C=CC=C2)N(C)CCOC2=CC=C(C=O)C=C2 | C17H16N2O3
reactant | Acetic acid | 1 mL | C(C)(=O)O | C2H4O2
solvent | benzene | 50 mL | C1=CC=CC=C1 | C6H6
solvent | water | O | H2O
product | Methyl (Z)-3-[4-[2-[N-(2-benzoxazolyl)-N-methylamino]ethoxy]phenyl]-2-(carboxymethoxy)propenoate | O1C(=NC2=C1C=CC=C2)N(C)CCOC2=CC=C(C=C2)\C=C(\C(=O)OC)/OCC(=O)O | C22H22N2O7
